US04212813
10 g of 5,6-dichloroacenaphthene, 0.3 g of cobalt acetate tetrahydrate, 0.015 g of manganese acetate tetrahydrate, 0.03 g of NaBr, 0.18 ml of triethanolamine, 35 ml of chlorobenzene and 15 ml of acetic acid were charged into the same reactor as used in Example 1, and 8 ml of acetic anhydride was placed in the dropping funnel. When the gas in the system was replaced with oxygen gas and heated up to 68° C., the reaction set in and was continued while dropwise adding acetic anhydride thereto. 3 hours after commencement of the reaction, the amount of absorbed oxygen reached 1000 ml, and the system was then heated to 75° C., then to 85° C. after 2 hours, and finally to 90° C. after 3 hours. After the reaction for a total time of 18 hours, the consumption of oxygen reached 2300 ml. The acetic acid was distilled off from the resulting reaction mixture, and then the mixture was placed in a 300 ml flask. To the flask were added chlorobenzene until the total amount reached 100 ml and then 160 ml of water dissolving therein 12 g of KOH, followed by reacting for 1.5 hours at 60°-80° C. while dropping 20 ml of an aqueous 35% hydrogen peroxide solution. After the chlorobenzene was removed for recovery by steam distillation, 1 g of active carbon was added to the reaction mixture, and then removed by filtration. The resulting filtrate was admixed with an acid to permit precipitation, followed by filtering, washing with water and drying to obtain 10.9 g of light yellowish 4,5-dichloronaphthalic anhydride. The yield and purity were found to be 91% and 97.2%, respectively.

reactant | 5,6-dichloroacenaphthene | 10 g | ClC1=CC=C2CCC=3C=CC(=C1C32)Cl | C12H8Cl2
reactant | NaBr | 0.03 g | [Na+].[Br-]
reactant | triethanolamine | 0.18 ml | N(CCO)(CCO)CCO | C6H15NO3
reactant | acetic anhydride | 8 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | oxygen | O=O | O2
catalyst | cobalt acetate tetrahydrate | 0.3 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | manganese acetate tetrahydrate | 0.015 g | O.O.O.O.C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | chlorobenzene | 35 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4,5-dichloronaphthalic anhydride | ClC1=CC=C(C2=CC=CC(=C12)Cl)C(=O)OC(=O)C1=CC=C(C2=C(C=CC=C12)Cl)Cl | C22H10Cl4O3
